US06423846B1
Preparation of 2-[3-methyl-4-(2,2,2-trifluoro ethoxy)-2-pyridyl]methylthio-1H-benzimidazole(the compound of formula (II)) (Step (a))
A mixture of 6.63 g of 2-hydroxymethyl-3-methyl-4-(2,2,2-trifluoroethoxy)pyridine(30 mmol), 4.5 g of 2-mercaptobenzimidazol(30 mmol) and 8.67 g of triphenyl phosphine(33 mmol) was dissolved in 100 ml of tetrahydrofuran, 5.75 g of diethyl azodicarboxylate(DEAD)(33 mmol) dissolved in 30 ml of tetrahydrofuran was added dropwise thereto at room temperature, and stirred for 1 hour. The reaction mixture was concentrated under a reduced pressure, the resulting residue was combined with looml of ethylacetate, and extracted twice with 50 ml portions of 1N—HCl. The aqueous layer was then washed with 50 ml of diethylether; neutralized with 1N—NaOH to adjust the pH to 7. The resulting precipitates were filtrated, washed with water, and dried, to obtain 10.06 g of the title compound as a white solid(yield: 95%).

reactant | 2-hydroxymethyl-3-methyl-4-(2,2,2-trifluoroethoxy)pyridine | 30 mmol, 6.63 g | OCC1=NC=CC(=C1C)OCC(F)(F)F | C9H10F3NO2
reactant | 2-mercaptobenzimidazol | 30 mmol, 4.5 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | triphenyl phosphine | 33 mmol, 8.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-[3-methyl-4-(2,2,2-trifluoro ethoxy)-2-pyridyl]methylthio-1H-benzimidazole | 10.06 g, yield: 95% | CC=1C(=NC=CC1OCC(F)(F)F)CSC1=NC2=C(N1)C=CC=C2 | C16H14F3N3OS
